US04614723
180 mg of 5,10,15,20-tetra(4-pyridyl)-21H,23H-porphine are dissolved in 70 ml of chloroform/methanol (9:1), treated with 585 mg of 6-bromo-caproic acid and subsequently heated at reflux for 20 hours. The solution is then concentrated in vacuo to 5 to 10 ml and the product is precipitated by the addition of 250 ml of ether. The product is added to a 15 cm long silica column, whereupon the elution is carried out with 500 ml of chloroform/methanol (9:1), the starting zone is removed from the column and extracted with 1 liter of methanol and then with 1 liter of chloroform/methanol/water (2:7:1). The material obtained from the extracts is purified further by preparative thick-layer chromatography; eluent: chloroform/methanol/dimethylformamide/water (1:2:1:1). After scratching off, the main zone is extracted twice with 250 ml of methanol each time and twice with 250 ml of chloroform/methanol/water (2:7:1) each time. The product is finally re-precipitated a further four times. For this purpose, it is firstly dissolved in the smallest amount of methanol possible and then precipitated by the slow dropwise addition of 250 ml of chloroform. There are obtained 30 mg of 1-(5-carboxypentyl)-4-(10,15,20-tri-4-pyridyl-21H,23H-porphin-5-yl)pyridinium bromide.

reactant | 5,10,15,20-tetra(4-pyridyl)-21H,23H-porphine | 180 mg | N1=CC=C(C=C1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC=NC=C4)N3)C3=CC=NC=C3)=N2)C2=CC=NC=C2 | C40H26N8
reactant | 6-bromo-caproic acid | 585 mg | BrCCCCCC(=O)O | C6H11BrO2
solvent | chloroform methanol | 70 ml | C(Cl)(Cl)Cl.CO
product | 1-(5-carboxypentyl)-4-(10,15,20-tri-4-pyridyl-21H,23H-porphin-5-yl)pyridinium bromide | 30 mg | [Br-].C(=O)(O)CCCCC[N+]1=CC=C(C=C1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC=NC=C4)N3)C3=CC=NC=C3)=N2)C2=CC=NC=C2 | InChI=1S/C46H36N8O2.BrH/c55-42(56)4-2-1-3-27-54-28-19-33(20-29-54)46-40-11-9-38(52-40)44(31-15-23-48-24-16-31)36-7-5-34(50-36)43(30-13-21-47-22-14-30)35-6-8-37(51-35)45(32-17-25-49-26-18-32)39-10-12-41(46)53-39;/h5-26,28-29H,1-4,27H2,(H2,50,51,52,53,55,56);1H
